US08389720B2
tert-butyl 4-(2-{(cyclohexylcarbonyl)[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]amino}-1-phenylethyl)piperidine-1-carboxylate
tert-butyl 4-(2-{[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]amino}-1-phenylethyl)piperidine-1-carboxylate (1.61 g crude, 3.39 mmol), EDC (1.298 g, 6.77 mmol), HOAT (0.461 g, 3.39 mmol), DIEA (1.182 ml, 6.77 mmol), and cyclohexanecarboxylic acid (0.504 ml, 4.06 mmol) were combined in CH2Cl2 and the reaction stirred for 15 hours. The mixture was partitioned between CH2Cl2 and satd. bicarb, the aqueous portion extracted 3×CH2Cl2, and the organic portion dried (Na2SO4) then concentrated in vacuo. The resulting material was purified by silica gel chromatography on an Isco Companion. The desired fractions were combined and concentrated in vacuo. 1.63 g, 82% over two steps.

reactant | tert-butyl 4-(2-{[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]amino}-1-phenylethyl)piperidine-1-carboxylate | 3.39 mmol, 1.61 g | CN1C(C(=CC2=CC=CC=C12)CNCC(C1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C29H37N3O3
reactant | EDC | 6.77 mmol, 1.298 g
reactant | HOAT | 3.39 mmol, 0.461 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIEA | 6.77 mmol, 1.182 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclohexanecarboxylic acid | 4.06 mmol, 0.504 ml | C1(CCCCC1)C(=O)O | C7H12O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(2-{(cyclohexylcarbonyl)[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]amino}-1-phenylethyl)piperidine-1-carboxylate | C1(CCCCC1)C(=O)N(CC(C1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C)CC=1C(N(C2=CC=CC=C2C1)C)=O | C36H47N3O4
